US08802673B2
To a stirred solution of (RS)-[2-(4-bromo-3-fluoro-phenyl)-2-hydroxy-ethyl]-(2-hydroxy-ethyl)-carbamic acid tert-butyl ester (3.88 g) and triethylamine (1.71 ml) in THF (40 ml) at 0-5° C. was added dropwise methanesulfonyl chloride (873 μl). The reaction mixture was then stirred at room temperature for 30 min to afford a white suspension. The reaction mixture was then filtered to remove triethylamine hydrochloride, washing the filter with THF (6 ml). The filtrate was cooled to 0-5° C. and potassium 2-methyl-2-butoxide (9.05 ml, 1.7 M solution in toluene) was added. The reaction mixture was stirred at room temperature for 1 hour and then poured into water and extracted twice with EtOAc. The combined organic phases were dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel; gradient: 0% to 30% EtOAc in hexanes) to afford (RS)-2-(4-bromo-3-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester (1.73 g, 47%) as an orange viscous oil. MS (ISP): 306.1 ([{81Br}M+H—C4H8]+), 304.1 ([{79Br}M+H—C4H8]+), 262.0 ([{81Br}M+H—C4H8—CO2]+), 260.1 ([{79Br}M+H—C4H8—CO2]+).

reactant | (RS)-[2-(4-bromo-3-fluoro-phenyl)-2-hydroxy-ethyl]-(2-hydroxy-ethyl)-carbamic acid tert-butyl ester | 3.88 g | C(C)(C)(C)OC(N(CCO)CC(O)C1=CC(=C(C=C1)Br)F)=O | C15H21BrFNO4
reactant | triethylamine | 1.71 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 873 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | (RS)-2-(4-bromo-3-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester | 1.73 g, 47% | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=CC(=C(C=C1)Br)F | C15H19BrFNO3
